US05708123
a) N,N'-bis(2 -nitrophenyl)-1,12-diaminododecane
34 g (0.216 mol) 2-nitro-chlorobenzene and 20 g 1,12-diaminododecane (0.10 mol) are mixed with 40 g potassium carbonate and 200 ml N,N-dimethylformamide (DMF). The mixture is heated with reflux while subjected to a vigorous stirring for four hours. Subsequently, the inorganic salts are filtered off and washed with a small amount of DMF. The entire DMF-phase is distilled under vacuum to remove substantially all DMF. The remanence is cooled, and 200 ml water are added while vigorously stirred. Subsequently, the water phase is decanted off, and the product is caused to crystallize by the addition of approximately 100 ml ethanol. The crystals are filtered off, washed twice with 25 ml ethanol and 100 ml petroleum ether followed by an air-drying of the product. Yield 21.8 g (49%), melting point 79° to 80° C.

reactant | 2-nitro-chlorobenzene | 0.216 mol, 34 g | [N+](=O)([O-])C1=C(C=CC=C1)Cl | C6H4ClNO2
reactant | 1,12-diaminododecane | 0.10 mol, 20 g | NCCCCCCCCCCCCN | C12H28N2
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N,N'-bis(2 -nitrophenyl)-1,12-diaminododecane | [N+](=O)([O-])C1=C(C=CC=C1)NCCCCCCCCCCCCNC1=C(C=CC=C1)[N+](=O)[O-] | C24H34N4O4
